US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(pyridin-4-ylmethyl)-amide
Prepared analogously to Example 1 from 4-(aminomethyl)-pyridine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | 4-(aminomethyl)-pyridine | NCC1=CC=NC=C1 | C6H8N2
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(pyridin-4-ylmethyl)-amide | N1=CC=C(C=C1)CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C24H23BrN2O
